US08729102B2
F) 2-ethylhexyl 3-{[2-{[(3-{[(2S)-2-(acetylamino)propyl]oxy}isoxazol-5-yl)carbonyl]amino}-5-(cyclopropylmethoxy)phenyl]sulfanyl}propanoate
Using 3-{[(2S)-2-(acetylamino)propyl]oxy}isoxazole-5-carboxylic acid and 2-ethylhexyl 3-{[2-amino-5-(cyclopropylmethoxy)phenyl]sulfanyl}propanoate, and in the same manner as in Example 2, step C, the title compound was obtained.

reactant | 3-{[(2S)-2-(acetylamino)propyl]oxy}isoxazole-5-carboxylic acid | C(C)(=O)N[C@H](COC1=NOC(=C1)C(=O)O)C | C9H12N2O5
reactant | 2-ethylhexyl 3-{[2-amino-5-(cyclopropylmethoxy)phenyl]sulfanyl}propanoate | NC1=C(C=C(C=C1)OCC1CC1)SCCC(=O)OCC(CCCC)CC | C21H33NO3S
product | 2-ethylhexyl 3-{[2-{[(3-{[(2S)-2-(acetylamino)propyl]oxy}isoxazol-5-yl)carbonyl]amino}-5-(cyclopropylmethoxy)phenyl]sulfanyl}propanoate | C(C)(=O)N[C@H](COC1=NOC(=C1)C(=O)NC1=C(C=C(C=C1)OCC1CC1)SCCC(=O)OCC(CCCC)CC)C | C30H43N3O7S
